Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
This patient presented with what he described as weakness in his 
legs and headaches.
 
Major Surgical or Invasive Procedure:
left craniotomy for tumor resection ___

 
History of Present Illness:
This patient presented with what he described as weakness in his 
legs and headaches. The MRI scan showed a homogeneously 
enhancing lesion in the left parietal lobe para medially which 
completely occluded the sagittal sinus. There
is very little para focal edema. The tumor has a maximum 
diameter of 3.4 cm already. The situation was discussed with him 
and clearly primary radiosurgery is inappropriate due to the 
size of the tumor. Also wait and see strategy given the size and 
the inhomogeneity of the contrast enhancement, which was 
suspicious for atypical features was not advisable.  Mr. ___ 
opted for an at least partial resection to obtain histological 
diagnosis and provide conditions that make radiosurgery of the 
tumor parts and the sinus a possibility.

 
Past Medical History:
unknown
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Exam upon discharge:
The patient was oriented x 3. PERRL, EOMs intact. Face 
symmetric, tongue midline. He was moving all 4 extremities 
spontaneously and was walking on his own. His sensation was 
intact. No pronator drift.

 
Pertinent Results:
Post-op MRI ___:
FINDINGS: Postoperative changes are seen in the area of 
partially resected
meningioma in the high left occipital lobe adjacent to the 
sagittal sinus.
There are small foci of blood products in the operative bed, and 
a tiny amount of left subdural blood. Some residual enhancing 
mass remains adjacent to the superior sagittal sinus.
 
Signal change within the sinus itself is not significantly 
changed from prior exam, allowing for technical factors. There 
is high signal on T2W images within the portions of the sagittal 
sinus inferior to the resection site suggestive of slow flow, 
but normal enhancement within these areas on post-contrast 
images, and no increased signal on precontrast T1W images to 
suggest thrombus.
 
Ventricular size and configuration is unchanged. There is no 
evidence of
acute ischemia. Mildly restricted diffusion signal at the 
operative bed is
compatible with postsurgical change. Old infarct in the 
brainstem is
unchanged.
 
IMPRESSION:
1. Postoperative change at the site of recently resected 
meningioma, with
some residual enhancing tumor, and unchanged signal abnormality 
within the
adjacent superior sagittal sinus which may represent tumoral 
invasion or
thrombus. CTV or phase-contrast MRV could be performed to 
further evaluate
this area if clinically indicated.
2. Findings most consistent with slow flow within the sagittal 
sinus inferior to the resection site. No additional evidence of 
sinus thrombosis.
3. No evidence of acute infarction.

CT Head ___:
FINDINGS: High left parietal meningioma has been resected via 
left parietal
craniotomy. Expected postsurgical change is seen in the 
resection bed. There is no sign of large intracranial 
hemorrhage. Moderate amount of
pneumocephalus is present. There is no sign of mass effect, or 
vascular
territorial infarction. Ventricles and sulci are unchanged in 
size and
configuration, allowing for differences in modality.
 
IMPRESSION: Expected post-surgical change status post resection 
of left
parietal meningioma. No large intracranial hemorrhage.
 
Pathology: pending at time of discharge but the frozen section 
showed meningioma with atypical features
 
Brief Hospital Course:
The patient underwent elective craniotomy for tumor resection on 
___. The surgery went well. He did require intra-operative 
platelets due to some bleeding. He had previously been on 
aspirin but discontinued it 10 days before the surgery. The 
patient went to the ICU post-operatively. His CT scan showed no 
large hemorrhage with expected post-surgical changes in the 
operative bed. The MRI showed some residual tumor as well as 
some blood in the surgical bed and small amount of SDH. 
Neurologically the patient was doing very well. He was 
transferred to the floor on ___. The patient was evaluated by 
___ and was deemed safe to be discharged with his family. He was 
ambulating, voiding, and taking in food without difficulty. He 
was discharged on ___.
 
Medications on Admission:
pioglitazone, glimepiride, atorvastatin, metoprolol tartrate, 
omeprazole
 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
2. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
3. Pioglitazone 15 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily). Tablet(s) 
4. Glimepiride 2 mg Tablet Sig: One (1) Tablet PO daily ().  
5. Atorvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Levetiracetam 500 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).
Disp:*60 Tablet(s)* Refills:*2*
7. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO Q8H 
(every 8 hours).  
8. Dexamethasone 1 mg Tablet Sig: One (1) Tablet PO every eight 
(8) hours for 1 days.
Disp:*3 Tablet(s)* Refills:*0*
9. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).
Disp:*30 Capsule, Delayed Release(E.C.)(s)* Refills:*1*
10. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO 
every eight (8) hours: Please follow up with pcp for BP 
monitoring.
Disp:*30 Tablet(s)* Refills:*1*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
meningioma with atypical features

 
Discharge Condition:
neurologically stable

 
Discharge Instructions:
•Have a friend/family member check your incision daily for 
signs of infection.
•Take your pain medicine as prescribed.
•Exercise should be limited to walking; no lifting, straining, 
or excessive bending.
•You may wash your hair only after sutures have been removed.  
•You may shower before this time using a shower cap to cover 
your head.
•Increase your intake of fluids and fiber, as narcotic pain 
medicine can cause constipation. We generally recommend taking 
an over the counter stool softener, such as Docusate (Colace) 
while taking narcotic pain medication.
•Unless directed by your doctor, do not take any 
anti-inflammatory medicines such as Motrin, Aspirin, Advil, and 
Ibuprofen etc. 
•If you have been prescribed Dilantin (Phenytoin) for 
anti-seizure medicine, take it as prescribed and follow up with 
laboratory blood drawing in one week.  This can be drawn at your 
PCP’s office, but please have the results faxed to ___. 
If you haven been discharged on Keppra (Levetiracetam), you will 
not require blood work monitoring.
•Clearance to drive and return to work will be addressed at 
your post-operative office visit.
•Make sure to continue to use your incentive spirometer while 
at home, unless you have been instructed not to. 

CALL YOUR SURGEON IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING

•New onset of tremors or seizures.
•Any confusion or change in mental status. 
•Any numbness, tingling, weakness in your extremities.
•Pain or headache that is continually increasing, or not 
relieved by pain medication.
•Any signs of infection at the wound site: redness, swelling, 
tenderness, or drainage.
•Fever greater than or equal to 101° F.

 
Followup Instructions:
___